US06713507B2
5-Bromo-2,2-dimethyl-1-(tetrahydropyranyloxy)-pentane
5-Bromo-2,2-dimethyl-1-pentanol (77.4 g, 357 mmol) was dissolved in dichloromethane (400 mL), andp-toluenesulfonic acid (6.9 g, 36 mmol) was added. The mixture was stirred under argon, chilled in an ice-bath, then was added 3,4-dihydro-2H-pyran (37.2 g, 428 mmol) and stirred, gradually letting warm to rt overnight. The reaction mixture was then filtered through neutral alumina (100 g); the alumina was rinsed with additional dichloromethane (600 mL). After evaporating to about 500 mL, the organic layer was extracted with sat. NaHCO3 (3′ 200 mL), then dried over MgSO4. The solution was concentrated under reduced pressure to produce the expected product (107.83 g, 97% yield) as a yellow oil. 1H NMR (CDCl3), d (ppm): 4.55 (m, 1H); 3.83 (m, 1H); 3.51 (m, 1H); 3.47 (d, 1 H, J=9.0); 3.38 (t, 2 H, J=6.8); 2.98 (d, 1 H, J=9.0); 1.94-1.75 (m, 2H); 1.75-1.44 (m, 6H); 1.40 (t, 2 H, J=8.5); 0.93-0.87 (m, 6H). 13C NMR (CDCl3), d (ppm): 99.0, 76.2, 61.9, 37.9, 34.6, 34.0, 30.6, 27.9, 25.6, 24.64, 24.56, 19.4. HRMS calcd. for C12H24BrO2 (MH+): 279.0960, found 279.0955.

reactant | 5-Bromo-2,2-dimethyl-1-pentanol | 357 mmol, 77.4 g | BrCCCC(CO)(C)C | C7H15BrO
reactant | 3,4-dihydro-2H-pyran | 428 mmol, 37.2 g | O1CCCC=C1 | C5H8O
solvent | dichloromethane | 400 mL | ClCCl | CH2Cl2
catalyst | andp toluenesulfonic acid | 36 mmol, 6.9 g | C[C@@H](C(=O)N[C@@H](CC(=O)N)C(=O)N[C@@H](CC(=O)O)C(=O)N1CCC[C@H]1C(=O)O)N.C=1(C(=CC=CC1)S(=O)(=O)O)C
product | 5-Bromo-2,2-dimethyl-1-(tetrahydropyranyloxy)-pentane | 107.83 g, 97% yield | BrCCCC(COC1OCCCC1)(C)C | C12H23BrO2
